US07456164B2
1-isopropyl-4-{4-[4-(1,3-thiazol-2-yl)tetrahydro-2H-pyran-4-yl]phenoxy}piperidine
The title compound (320 mg, 74%) was prepared from 4-{4-[(1-isopropylpiperidin-4-yl)oxy]phenyl}tetrahydro-2H-pyran-4-carbothioamide and bromoacetaldehyde diethylacetal similarly to the procedure used for example 137. 1H NMR (400 MHz, CD3OD) δ 1.10 (d, 6H), 1.75-1.80 (m, 2H), 1.98-2.02 (m, 2H), 2.37-2.44 (m, 2H), 2.47-2.51 (m, 2H), 2.61-2.65 (m, 2H), 2.75-2.84 (m, 3H), 3.66-3.70 (m, 2H), 3.78-3.83 (m, 2H), 4.37 (m, 1H), 6.89 (d, 2H), 7.28 (d, 2H), 7.46 (d, 1H), 7.70 (d, 1H). RMS ESI+ m/z 387.2090 [MH]+. Microanalysis: Found: C, 67.42; H, 7.83; N, 7.08%. C22H30N2O2S. 0.2H2O requires C, 67.73; H, 7.85; N, 7.18%.

reactant | 4-{4-[(1-isopropylpiperidin-4-yl)oxy]phenyl}tetrahydro-2H-pyran-4-carbothioamide | C(C)(C)N1CCC(CC1)OC1=CC=C(C=C1)C1(CCOCC1)C(N)=S | C20H30N2O2S
reactant | bromoacetaldehyde diethylacetal | C(C)OC(CBr)OCC | C6H13BrO2
product | 1-isopropyl-4-{4-[4-(1,3-thiazol-2-yl)tetrahydro-2H-pyran-4-yl]phenoxy}piperidine | 320 mg, 74% | C(C)(C)N1CCC(CC1)OC1=CC=C(C=C1)C1(CCOCC1)C=1SC=CN1 | C22H30N2O2S
